US07220862B2
(±)-2-Amino-3-(6-methoxy-pyridin-3-yl)-propionic acid methyl ester
A flask containing 2-benzyloxycarbonylamino-3-(6-methoxy-pyridin-3-yl)-acrylic acid methyl ester (620 mg), palladium on charcoal (10%, 100 mg), ethyl acetate (10 mL) and methanol (20 mL) was flushed with nitrogen, then hydrogen, before finally affixing a balloon of hydrogen. The reaction was allowed to stir overnight. The flask was flushed with nitrogen, filtered through celite, and concentrated to give 390 mg (quant.) which was used without purification. Mass spec.: 211.11 (MH)+.

reactant | 2-benzyloxycarbonylamino-3-(6-methoxy-pyridin-3-yl)-acrylic acid methyl ester | 620 mg | COC(C(=CC=1C=NC(=CC1)OC)NC(=O)OCC1=CC=CC=C1)=O | C18H18N2O5
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | (±)-2-Amino-3-(6-methoxy-pyridin-3-yl)-propionic acid methyl ester | COC(C(CC=1C=NC(=CC1)OC)N)=O | C10H14N2O3
